US08258122B2
c) N′-(4-iodopyridin-2-yl)-2-oxo-2-pyrrolidin-1-ylacetohydrazide
To a solution of [2-(4-iodopyridin-2-yl)hydrazino](oxo)acetic acid (0.64 g, 2.10 mmol) in di-methylformamide (21 mL) was added diisopropylethylamine (1.65 mL, 9.47 mmol), pyrrolidine (0.74 mL, 8.84 mmol) and finally HATU (2.40 g, 6.31 mmol). The resulting mixture was stirred at room temperature under argon atmosphere for 18 hours. The solvent was removed under reduced pressure, water was added and it was extracted with ethyl acetate. The combined organic layers were washed with brine, dried and concentrated. The crude was purified by reverse phase chromatography on a silica C18 cartridge eluting with water/acetonitrile:methanol (1:1), using a gradient from 100% water to 100% acetonitrile:methanol (1:1), to yield the title compound (0.26 g, 30%) as a white solid.

reactant | [2-(4-iodopyridin-2-yl)hydrazino](oxo)acetic acid | 2.10 mmol, 0.64 g | IC1=CC(=NC=C1)NNC(C(=O)O)=O | C7H6IN3O3
reactant | diisopropylethylamine | 9.47 mmol, 1.65 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | 8.84 mmol, 0.74 mL | N1CCCC1 | C4H9N
reactant | HATU | 6.31 mmol, 2.40 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | di-methylformamide | 21 mL | CN(C=O)C | C3H7NO
product | N′-(4-iodopyridin-2-yl)-2-oxo-2-pyrrolidin-1-ylacetohydrazide | 0.26 g, 30% | IC1=CC(=NC=C1)NNC(C(N1CCCC1)=O)=O | C11H13IN4O2
